US08541588B2
N-(2,4-Dimethoxybenzyl)-2,5-difluoro-4-[2-iodo-4-(trifluoromethyl)phenoxy]-N-1,2,4-thiadiazol-5-ylbenzenesulfonamide
Prepared according to Preparation 255 using N-(2,4-dimethoxybenzyl)-2,4,5-trifluoro-N-1,2,4-thiadiazol-5-ylbenzenesulfonamide (Preparation 647, 1000 mg, 2.26 mmol) and 2-iodo-4-(trifluoromethyl)phenol (Preparation 224, 975 mg, 3.38 mmol) to afford the title compound, 1080 mg, 67% yield.

reactant | N-(2,4-dimethoxybenzyl)-2,4,5-trifluoro-N-1,2,4-thiadiazol-5-ylbenzenesulfonamide | 2.26 mmol, 1000 mg | COC1=C(CN(S(=O)(=O)C2=C(C=C(C(=C2)F)F)F)C2=NC=NS2)C=CC(=C1)OC | C17H14F3N3O4S2
reactant | 2-iodo-4-(trifluoromethyl)phenol | 3.38 mmol, 975 mg | IC1=C(C=CC(=C1)C(F)(F)F)O | C7H4F3IO
product | N-(2,4-Dimethoxybenzyl)-2,5-difluoro-4-[2-iodo-4-(trifluoromethyl)phenoxy]-N-1,2,4-thiadiazol-5-ylbenzenesulfonamide | 67% yield | COC1=C(CN(S(=O)(=O)C2=C(C=C(C(=C2)F)OC2=C(C=C(C=C2)C(F)(F)F)I)F)C2=NC=NS2)C=CC(=C1)OC | C24H17F5IN3O5S2
